US07635684B2
1-(2-Benzyloxyethyl)-4-[(4-benzyloxy-2-methylphenyl)-methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole
To a solution of 4-[(4-benzyloxy-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole (2 g) in N,N-dimethylacetoamide (36 mL) were added sodium hydride (55%, 0.26 g) and benzyl 2-bromoethyl ether (0.76 mL) under ice-cooling, and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with diethylether The extract was washed with water twice and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1) to give the title compound (0.89 g).

reactant | 4-[(4-benzyloxy-2-methylphenyl)methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 2 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O)C | C47H66N2O11
reactant | sodium hydride | 0.26 g | [H-].[Na+]
reactant | benzyl 2-bromoethyl ether | 0.76 mL | BrCCOCC1=CC=CC=C1 | C9H11BrO
reactant | water | O | H2O
solvent | N,N-dimethylacetoamide | 36 mL | CN(C(C)=O)C | C4H9NO
product | 1-(2-Benzyloxyethyl)-4-[(4-benzyloxy-2-methylphenyl)-methyl]-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.89 g | C(C1=CC=CC=C1)OCCN1N=C(C(=C1C(C)C)CC1=C(C=C(C=C1)OCC1=CC=CC=C1)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C56H76N2O12
